US07157488B2
2-(3-Phenylsulfanylphenyl)-[1,3]-dioxolane
Combine 2-(3-bromophenyl)-1,3-dioxolane (3.0 ml, 20.0 mmol) and tetrahydrofuran (100 ml). Cool to about −78° C. Add dropwise a solution of n-butyllithium, 1.6 M solution in hexane (13.4 ml, 21.0 mmol). After 10 minutes, add phenyl disulfide (4.3 g, 20.0 mmol) as a solution in tetrahydrofuran (50 ml). After 1 hour, warm to room temperature over 1 hour then quenched with water (150 ml) and extract with ether. Extract the combined organic layers sequentially with distilled water and brine and then dry (Na2SO4), filter, and concentrate to give a residue. Chromatograph the residue eluting with 9:1 hexane:EtOAc gives the title compound.

reactant | 2-(3-bromophenyl)-1,3-dioxolane | 20.0 mmol, 3.0 ml | BrC=1C=C(C=CC1)C1OCCO1 | C9H9BrO2
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 21.0 mmol, 13.4 ml | CCCCCC | C6H14
reactant | phenyl disulfide | 20.0 mmol, 4.3 g | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-(3-Phenylsulfanylphenyl)-[1,3]-dioxolane | C1(=CC=CC=C1)SC=1C=C(C=CC1)C1OCCO1 | C15H14O2S
